US06355765B1
A suspension of potassium carbonate (26.5 g, 192 mmol) and catechol (10.63 g, 96.54 mmol) in dimethylacetamide (600 mL) containing toluene (100 mL) was refluxed using Dean-stark apparatus. After 3 h, para-fluorobenzonitrile (23.4 g, 193 mmol) was added and reaction was continued for 24 h. Upon cooling, the reaction mixture was evaporated. The organic product was dissolved in ethyl acetate and filtered through Celite. Evaporation of the solution gave a solid which after recrystallization from ethanol gave 4,4′-(1,2-benzenedioxy)dibenzonitrile (26 g), 86% yield, mp=112.5° C.

reactant | potassium carbonate | 192 mmol, 26.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | catechol | 96.54 mmol, 10.63 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | para-fluorobenzonitrile | 193 mmol, 23.4 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | dimethylacetamide | 600 mL | CC(=O)N(C)C | C4H9NO
product | 4,4′-(1,2-benzenedioxy)dibenzonitrile | 26 g, 86% yield | C=1(C(=CC=CC1)OC1=CC=C(C#N)C=C1)OC1=CC=C(C#N)C=C1 | C20H12N2O2
